US05529988
Step B. Acetoxymethyldimethyl-3-fluorobenzylsilane
Chloromethyldimethyl-3-fluorobenzylsilane (0.85 g, 3.93 mmol) and potassium acetate (0.83 g, 8.45 mmol) are refluxed in acetic acid (10 ml) for 48 hours. The mixture is then cooled, poured into water (50 ml) and extracted with diethyl ether (50 ml). The organic layer is washed with water, brine, dried over MgSO4 and the solvent is removed in vacuo. Chromatography (silica gel, hexane/ether-80/20 affords the title compound as an oil (0.38 g, 40% yield).

reactant | Chloromethyldimethyl-3-fluorobenzylsilane | 3.93 mmol, 0.85 g | ClC[Si](CC1=CC(=CC=C1)F)(C)C | C10H14ClFSi
reactant | potassium acetate | 8.45 mmol, 0.83 g | C(C)(=O)[O-].[K+]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Acetoxymethyldimethyl-3-fluorobenzylsilane | 0.38 g, 40% yield | C(C)(=O)OC[Si](CC1=CC(=CC=C1)F)(C)C | C12H17FO2Si
